US06479531B1
3-{[5-(Adamantan-1-yloxymethyl)-2-bicyclo[2.2.2]oct-1-yl-1H-imidazole-4-carbonyl]-amino}-2-methyl-benzoic Acid
The title compound was prepared according to the procedure of Example 216, with the modification that bicyclo[2.2.2]oct-1-yl-carbaldehyde (prepared by pyridinium chlorochromate oxidation of bicyclo[2.2.2]oct-1-yl-methanol (C. A. Grob, M. Ohta, E. Renk and A. Weiss, Helv. Chim. Acta 1958, 41, 1191)) was used in step d instead of cyclohexanecarboxaldehyde and 3-amino-2-methyl-benzoic acid benzyl ester replaced 3-amino-benzoic acid benzyl ester in step f. 1H NMR (300 MHz, d6-DMSO) 12.90 (1H, br s), 12.11 (1H, br s), 9.38 (1H, s), 8.01 (1H, d), 7.51 (1H, d), 7.28 (1H, t), 4.76 (2H, s), 2.40 (3H, s), 2.09 (3H, br s), 1.85-1.73 (12H, m), 1.64-1.52 (13H, m). The acid was converted to the N-methyl-D-glucamine salt and lyophilised from water/dioxan. Found: C, 60.74; H, 7.99; N, 7.18%. C38H56N4O9.2.0 mols H2O requires: C, 60.94; H, 8.08; N, 7.48%.

reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | bicyclo[2.2.2]oct-1-yl-methanol | C12(CCC(CC1)CC2)CO | C9H16O
reactant | cyclohexanecarboxaldehyde | C1(CCCCC1)C=O | C7H12O
reactant | 3-amino-2-methyl-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C(=CC=C1)N)C)=O | C15H15NO2
reactant | 3-amino-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)N)=O | C14H13NO2
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | H2O | 2.0 mols | O | H2O
reactant | water dioxan | O.O1CCOCC1
product | 3-{[5-(Adamantan-1-yloxymethyl)-2-bicyclo[2.2.2]oct-1-yl-1H-imidazole-4-carbonyl]-amino}-2-methyl-benzoic Acid | C12(CC3CC(CC(C1)C3)C2)OCC2=C(N=C(N2)C23CCC(CC2)CC3)C(=O)NC=3C(=C(C(=O)O)C=CC3)C | C31H39N3O4
